US09023854B2
1.2 3-Amino-5-chloro-3-(2-ethoxypyridin-3-yl)-1,3-dihydroindol-2-one
104 ml (728 mmol) of a 7N methanolic ammonia solution were added dropwise to a cooled solution of 47 g (145 mmol) of 3,5-dichloro-3-(2-ethoxypyridin-3-yl)-1,3-dihydroindol-2-one in 250 ml of dichloromethane under a nitrogen atmosphere, and the reaction mixture was then stirred at room temperature overnight. 250 ml of water and 250 ml of dichloromethane were added to the reaction mixture. After stirring for 5 min, a white solid was precipitated and filtered off and washed with water and dichloromethane. Drying in a vacuum drying oven resulted in 26 g of the title compound as a white solid.

reactant | ammonia | 7N | N | H3N
reactant | 3,5-dichloro-3-(2-ethoxypyridin-3-yl)-1,3-dihydroindol-2-one | 145 mmol, 47 g | ClC1(C(NC2=CC=C(C=C12)Cl)=O)C=1C(=NC=CC1)OCC | C15H12Cl2N2O2
reactant | water | 250 ml | O | H2O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 3-Amino-5-chloro-3-(2-ethoxypyridin-3-yl)-1,3-dihydroindol-2-one | 26 g | NC1(C(NC2=CC=C(C=C12)Cl)=O)C=1C(=NC=CC1)OCC | C15H14ClN3O2
